US05096890
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine
3-(R,S)-(1-Cyano-1,1-diphenylmethyl)pyrrolidine (30 g--see Preparation 7) was dissolved in 95% sulphuric acid (210 ml) and the mixture was heated, with stirring, at 85° C. for 9 hours and then at 100° C. for 30 minutes. The mixture was allowed to cool to room temperature and poured onto ice (2 kg). The mixture was basified (pH 12) by addition, in portions with cooling in an ice bath, of a cold solution of sodium hydroxide (340 g) in water (500 ml). The resulting mixture was extracted with dichloromethane (3×300 ml) and the combined extracts were dried (MgSO4) and concentrated in vacuo to give the title compound as a foam, yield 16.4 g.

reactant | 3-(R,S)-(1-Cyano-1,1-diphenylmethyl)pyrrolidine | 30 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H18N2
reactant | sodium hydroxide | 340 g | [OH-].[Na+]
solvent | sulphuric acid | 210 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 500 ml | O | H2O
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
